US07407955B2
2-amino-7-(2-cyano-benzyl)-1,7-dihydro-purin-6-one
Prepared by reacting 20.00 g of guanosine-hydrate with 22.54 g of 2-cyano-benzylbromide in dimethylsulphoxide at 60° C. and subsequent treatment with 57 ml of conc. hydrochloric acid.

reactant | guanosine-hydrate | 20.00 g | O.[C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C=NC=2C(=O)NC(N)=NC12
reactant | 2-cyano-benzylbromide | 22.54 g | C(#N)C1=C(CBr)C=CC=C1 | C8H6BrN
reactant | hydrochloric acid | 57 ml | Cl | ClH
solvent | dimethylsulphoxide | CS(=O)C | C2H6OS
product | 2-amino-7-(2-cyano-benzyl)-1,7-dihydro-purin-6-one | NC=1NC(C=2N(C=NC2N1)CC1=C(C=CC=C1)C#N)=O | C13H10N6O
